US06747050B1
Synthesis of 3-{2-Methyl-(1S)-1-(naphthalene-2-carbonylamino)-propyl}-5-phenoxymethyl-4,5-dihydro-isoxazole-5-carboxylic Acid Ethyl Ester
A solution of 3-{(1S)-1-(t-butoxycarbonylamino)-2-methyl-propyl}-5-phenoxymethyl-4,5-dihydro-isoxazole-5-carboxylic acid ethyl ester (2.00 g, 4.76 mmol) in dry CH2Cl2 (10 mL) at 0° C. under N2 was treated with TFA (6 mL) and stirred for 1.5 h. After removal of volatiles, the residue was taken up with ethyl acetate (200 mL), washed with sat'd NaHCO3(100 mL×2), dried (anh Na2SO4), filtered and concentrated. To a solution of the crude product, EDC (1.09 g, 1.2 eq), 2-naphthoic acid (983 mg, 1.2 eq) and HOBt (771 mg, 1.2 eq) in DMF (20 mL) at 0° C. was added triethylamine (663 uL, 1.0 eq). The reaction was stirred overnight at room temperature. After removal of volailes in vacuo, the residue was taken up with ethyl acetate (250 mL), washed with water(100 mL), sat'd NaHCO3 (100 mL×2), dried (anh Na2SO4), filtered and concentrated. Flash chromatography with 25-33% ethyl acetate/hexanes gave 2.04 g (90%) of the title compound.

reactant | 3-{(1S)-1-(t-butoxycarbonylamino)-2-methyl-propyl}-5-phenoxymethyl-4,5-dihydro-isoxazole-5-carboxylic acid ethyl ester | 4.76 mmol, 2.00 g | C(C)OC(=O)C1(CC(=NO1)[C@H](C(C)C)NC(=O)OC(C)(C)C)COC1=CC=CC=C1 | C22H32N2O6
reactant | TFA | 6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | EDC | 1.09 g, 1.2 eq
reactant | 2-naphthoic acid | 983 mg, 1.2 eq | C1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | HOBt | 771 mg, 1.2 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 663 uL, 1.0 eq | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-{2-Methyl-(1S)-1-(naphthalene-2-carbonylamino)-propyl}-5-phenoxymethyl-4,5-dihydro-isoxazole-5-carboxylic Acid Ethyl Ester | 2.04 g, 90% | C(C)OC(=O)C1(CC(=NO1)[C@H](C(C)C)NC(=O)C1=CC2=CC=CC=C2C=C1)COC1=CC=CC=C1 | C28H30N2O5
